US05378797
3-Benzyloxypropionic acid, BOPA
To a stirred solution of ethylacrylate (0.5 mol, 50.0 g) in benzylalcohol (2 mol, 216 g), KtBu (5 mmol, 0.61 g) was added at room temperature. After standing overnight, NaOH (0.55 mol, 22 g) in water (100 ml) was added. The solution was stirred for 2 hrs. at 50° C. and cooled to room temperature. Water (300 ml) was added and the mixture extracted with CH2Cl2 (1×500 ml, 4×150 ml). The aqueous layer was evaporated and the residue washed with diethylether (4×100 ml). The white solid was dissolved in water (300 ml) and acidified with 33% HCl up to a pH of 2. On cooling (0° C.), the acid solidified. It was filtrated, rinsed with cold water, and dissolved in diethylether. After drying over MgSO4, the ether was evaporated. The acid was recrystallized from pentane/toluene and dried in a stream of nitrogen, resulting in 64.3 g (71%) of product.

reactant | ethylacrylate | 0.5 mol, 50.0 g | C(C)OC(C=C)=O | C5H8O2
reactant | benzylalcohol | 2 mol, 216 g | C(C1=CC=CC=C1)O | C7H8O
reactant | NaOH | 0.55 mol, 22 g | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
solvent | Water | 300 ml | O | H2O
product | 3-Benzyloxypropionic acid | 64.3 g, 71% | C(C1=CC=CC=C1)OCCC(=O)O | C10H12O3
